US07579359B2
A solution of valeryl chloride (4.4 mL, 37 mmol) in dichloromethane (25 mL) was added dropwise to a stirred suspension of 3-amino[1,5]naphthyridin-4-ol (5.0 g, 31 mmol) and triethylamine (6.6 mL, 47 mmol) in dichloromethane (100 mL), and the reaction was stirred for three days at room temperature. An analysis by LC/MS indicated the reaction was complete after 1.5 hours. The volatiles were removed under reduced pressure, and the residue was stirred with water (100 mL) for 15 minutes. The resulting solid was isolated by filtration and washed with water (100 mL) and diethyl ether (4×50 mL) to provide 5.35 g of N-(4-hydroxy[1,5]naphthyridin-3-yl)pentanamide.

reactant | valeryl chloride | 37 mmol, 4.4 mL | C(CCCC)(=O)Cl | C5H9ClO
reactant | 3-amino[1,5]naphthyridin-4-ol | 31 mmol, 5.0 g | NC=1C=NC2=CC=CN=C2C1O | C8H7N3O
reactant | triethylamine | 47 mmol, 6.6 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | N-(4-hydroxy[1,5]naphthyridin-3-yl)pentanamide | 5.35 g | OC1=C(C=NC2=CC=CN=C12)NC(CCCC)=O | C13H15N3O2
